US04254267
(D) (±)-4,5-Dihydro-3-(2-thienyl)-1H-pyrazole-5-carboxylic acid, t-butyl ester
A solution of 5.0 g of (±)-4,5-dihydro-1-(benzyloxycarbonyl)-3-(2-thienyl)-1H-pyrazole-5-carboxylic acid, t-butyl ester in 75 ml of ethanol containing 0.5 g of 5% palladium on carbon is hydrogenated at atmospheric pressure until the uptake of hydrogen ceases. The catalyst is removed by filtration through Celite and the filtrate is concentrated in vacuo to yield the title compound.

reactant | (±)-4,5-dihydro-1-(benzyloxycarbonyl)-3-(2-thienyl)-1H-pyrazole-5-carboxylic acid, t-butyl ester | 5.0 g | C(C1=CC=CC=C1)OC(=O)N1N=C(CC1C(=O)OC(C)(C)C)C=1SC=CC1 | C20H22N2O4S
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 75 ml, 0.5 g | C(C)O | C2H6O
catalyst | palladium on carbon | [Pd] | Pd
product | (±)-4,5-Dihydro-3-(2-thienyl)-1H-pyrazole-5-carboxylic acid, t-butyl ester | S1C(=CC=C1)C1=NNC(C1)C(=O)OC(C)(C)C | C12H16N2O2S
